US04272550
To 2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)phenol [Farah, et al, J. Org. Chem., 30, 1003 (1965)], (10.0 g=35 mmol) in 100 ml acetonitrile add ethyl bromoacetate (6.9 g=42 mmol) and potassium carbonate (9.7 g=69 mmol). Stir 5 hours, filter and concentrate. Partition between ether and 1.0 N HCl. Dry and concentrate the ether extract. Recrystallize from ether-hexane to obtain, as white crystals, m.p. 99°-101° C., ethyl 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetate.

reactant | 2,6-dimethyl-4-(hexafluoro-2-hydroxy-2-propyl)phenol | CC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)C)O | C11H10F6O2
reactant | ethyl bromoacetate | 42 mmol, 6.9 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 69 mmol, 9.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | ethyl 2-[4-(hexafluoro-2-hydroxy-2-propyl)-2,6-dimethylphenoxy]acetate | FC(C(C(F)(F)F)(O)C1=CC(=C(OCC(=O)OCC)C(=C1)C)C)(F)F | C15H16F6O4
